US04032527
Condensation of 4-aminophthalic anhydride and N,N,N',N'-tetramethyl-m-phenylenediamine by the method of part A of Example 3 affords 2-(2,4-bis(dimethylamino)benzoyl)-5-aminobenzoic acid.

reactant | 4-aminophthalic anhydride | NC=1C=C2C(C(=O)OC2=O)=CC1 | C8H5NO3
reactant | N,N,N',N'-tetramethyl-m-phenylenediamine | CN(C1=CC(=CC=C1)N(C)C)C | C10H16N2
product | 2-(2,4-bis(dimethylamino)benzoyl)-5-aminobenzoic acid | CN(C1=C(C(=O)C2=C(C(=O)O)C=C(C=C2)N)C=CC(=C1)N(C)C)C | C18H21N3O3
